US07256198B2
Step 2: 3-(5′-Chloro-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl)-2,2-dimethylpropanenitrile
To a stirred solution of potassium t-butoxide (0.561 g, 5.00 mmol, 1.2 eq) in anhydrous DMSO (16 mL) was added 5′-chlorospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (1.00 g, 4.17 mmol) all in one portion. After stirring 10 min. 3-chloro-2,2-dimethylpropionitrile (0.981 g, 8.34 mmol, 2 eq) was added in one portion at room temperature under a dry N2 atmosphere. The reaction was heated at 125° C. for 22 hr, cooled to room temperature, poured into H2O (180 mL) and extracted with Et2O (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified on Biotage KP silica gel eluting with 100% CH2Cl2 to give the title compound as a white solid (0.91 g, 68% yield). Anal. Calc'd for C16H17ClN2O3: C, 59.91; H, 5.34; N, 8.73. Found: C, 59.79; H, 5.26; N, 8.57. NMR (300 Mz, DMSO-d6): consistent. IR: consistent. MS: (ES+) m/z 321 [M+H]; one Cl pattern observed. m.p.: 114-115.5° C.

reactant | potassium t-butoxide | 5.00 mmol, 0.561 g, 1.2 eq | CC(C)([O-])C.[K+]
reactant | 5′-chlorospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 4.17 mmol, 1.00 g | ClC=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C11H10ClNO3
reactant | 3-chloro-2,2-dimethylpropionitrile | 8.34 mmol, 0.981 g, 2 eq | ClCC(C#N)(C)C | C5H8ClN
reactant | H2O | 180 mL | O | H2O
solvent | DMSO | 16 mL | CS(=O)C | C2H6OS
product | 3-(5′-Chloro-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl)-2,2-dimethylpropanenitrile | 0.91 g, 68% yield | ClC=1C=C2C3(C(N(C2=CC1)CC(C#N)(C)C)=O)OCCCO3 | C16H17ClN2O3
